US04443451
A mixture of 14 parts of ethyl 4-(4-fluorobenzoyl)-4-phenyl-1-piperidinecarboxylate and 150 parts of a hydrobromic acid solution 48% in water was stirred and refluxed for 30 minutes. The reaction mixture was diluted with 100 parts of water and the whole was stirred while the mixture was allowed to cool to room temperature. The precipitated product was filtered off (filtrate I was set aside), washed with methylbenzene and stirred in 2-propanone. It was filtered off again (filtrate II was set aside) and dried, yielding a first fraction of 4.3 parts of (4-fluorophenyl) (4-phenyl-4-piperidinyl)methanone hydrobromide hemihydrate. Filtrates I and II were evaporated and the solid residue was stirred in 4-methyl-2-pentanone. The product was filtered off and dried, yielding a second fraction of 6.2 parts of (4-fluorophenyl) (4-phenyl-4-piperidinyl)methanone hydrobromide hemihydrate; mp. 173.4° C. Total yield: 73%. (intermediate 17).

reactant | ethyl 4-(4-fluorobenzoyl)-4-phenyl-1-piperidinecarboxylate | FC1=CC=C(C(=O)C2(CCN(CC2)C(=O)OCC)C2=CC=CC=C2)C=C1 | C21H22FNO3
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | (4-fluorophenyl) (4-phenyl-4-piperidinyl)methanone hydrobromide hemihydrate | O.Br.FC1=CC=C(C=C1)C(=O)C1(CCNCC1)C1=CC=CC=C1.FC1=CC=C(C=C1)C(=O)C1(CCNCC1)C1=CC=CC=C1.Br | InChI=1S/2C18H18FNO.2BrH.H2O/c2*19-16-8-6-14(7-9-16)17(21)18(10-12-20-13-11-18)15-4-2-1-3-5-15;;;/h2*1-9,20H,10-13H2;2*1H;1H2
